US09085578B2
1-(2-((6-chloropyrimidin-4-yl)oxy)ethyl)pyrrolidin-2-one
To a solution of 4,6-dichloropyrimidine (600 mg) and 1-(2-hydroxyethyl)-2-pyrrolidinone (0.728 mL) in N,N-dimethylformamide (2 mL) was added sodium hydride (60% oil, 209 mg) under ice-cooling, and the mixture was stirred for 30 min. The reaction mixture was poured into saturated aqueous ammonium chloride solution (10 mL), water (5 mL) was added thereto, and the mixture was extracted with ethyl acetate. The organic layer was washed with, water (10 mL, threetimes) and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained pale-yellow oil was purified by silica gel chromatography (hexane/ethyl acetate) to give the title compound (634 mg).

reactant | 4,6-dichloropyrimidine | 600 mg | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | 1-(2-hydroxyethyl)-2-pyrrolidinone | 0.728 mL | OCCN1C(CCC1)=O | C6H11NO2
reactant | sodium hydride | 209 mg | [H-].[Na+]
reactant | ammonium chloride | 10 mL | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | water | 5 mL | O | H2O
product | 1-(2-((6-chloropyrimidin-4-yl)oxy)ethyl)pyrrolidin-2-one | 634 mg | ClC1=CC(=NC=N1)OCCN1C(CCC1)=O | C10H12ClN3O2
